US04607041
Diethyl 2,6-di-(fluoromethyl)-1,4-dihydro-4-(3-nitro-phenyl)-3,5-pyridinedicarboxylate
3-Nitrobenzaldehyde (1.51 g, 10 mmoles), ethyl 4-fluoro-3-oxo-butanoate (3 g, 20 mmoles) and aqueous ammonia (1.1 ml, d=0.88) in ethanol (15 ml) were heated at reflux for 14 hours more aqueous ammonia (0.55 ml) was added after 6 hours. The solvent was removed in vacuo and the residue was chromatographed on silica eluting with ether/petroleum ether (60°-80°) mixtures and the product obtained was recrystallised from 2-propanol to give the title compound as yellow crystals (0.4 g) mp 113°-4°.

reactant | 3-Nitrobenzaldehyde | 10 mmoles, 1.51 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | ethyl 4-fluoro-3-oxo-butanoate | 20 mmoles, 3 g | FCC(CC(=O)OCC)=O | C6H9FO3
reactant | ammonia | 1.1 ml | N | H3N
reactant | ammonia | 0.55 ml | N | H3N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | Diethyl 2,6-di-(fluoromethyl)-1,4-dihydro-4-(3-nitro-phenyl)-3,5-pyridinedicarboxylate | 0.4 g | FCC=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)CF | C19H20F2N2O6
